US07037908B2
N-(3,4-dichlorobenzyl)-2-(2,6-dimethoxyphenyl)-5-hydroxy-l -methyl-6-oxo-1,6-dihydropyrimidine-4-carboxamide.
Prepared according to the procedure described for example 2 from 2-(2,6-dimethoxy-phenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydro-pyrimidine -4-carboxylic acid ethyl ester (74.07 mg, 0.20 mmol) and 3,4-dichlorobenzylamine (132 mg, 0.75 mmol). The title product was obtained as a pink solid (57.8 mg, 83% yield). 1HNMR (500 MHz, CDCl3) δ: 11.95 (1H, s), 7.97 (1H, t, J=5.50 Hz), 7.41–7.38 (3H, m), 7.16 (1H, dd, J=8.24, 2.14 Hz), 6.63 (2H, d, J=8.24 Hz), 6.50 (2H, d, J=6.40 Hz), 3.76 (6H, s), 3.29 (3H, s). HRMS (ESI) calcd for C21H20Cl2N3O5 (M+H): 464.0780; found: 464.0775.

reactant | 2-(2,6-dimethoxy-phenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydro-pyrimidine -4-carboxylic acid ethyl ester | 0.20 mmol, 74.07 mg | C(C)OC(=O)C=1N=C(N(C(C1O)=O)C)C1=C(C=CC=C1OC)OC | C16H18N2O6
reactant | 3,4-dichlorobenzylamine | 0.75 mmol, 132 mg | ClC=1C=C(CN)C=CC1Cl | C7H7Cl2N
product | N-(3,4-dichlorobenzyl)-2-(2,6-dimethoxyphenyl)-5-hydroxy-l -methyl-6-oxo-1,6-dihydropyrimidine-4-carboxamide | ClC=1C=C(CNC(=O)C=2N=C(N(C(C2O)=O)C)C2=C(C=CC=C2OC)OC)C=CC1Cl | C21H19Cl2N3O5
